US03970454
1. Preparation of benzene diazonium bromide
Into a 4-liter three-neck flask, provided with a thermometer, a mechanical agitator, and a dropping funnel, one introduces 93 g of aniline (i.e. 1 mole), 500 ml of water and 425 g of 48% hydrobromic acid (i.e. 2.5 moles). To this mixture, maintained between 0°C and 4°C, one adds a solution of 70 g of sodium nitrite in 100 ml of water.

reactant | aniline | 1 mole, 93 g | NC1=CC=CC=C1 | C6H7N
reactant | hydrobromic acid | 2.5 moles, 425 g | Br | BrH
reactant | sodium nitrite | 70 g | N(=O)[O-].[Na+]
solvent | water | 100 ml | O | H2O
solvent | water | 500 ml | O | H2O
product | benzene diazonium bromide | [Br-].C1(=CC=CC=C1)[N+]#N | InChI=1S/C6H5N2.BrH/c7-8-6-4-2-1-3-5-6;/h1-5H;1H/q+1;/p-1
